US09382188B2
A) ethyl 3-cyclopropyl-3-(2-(((5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)oxy)methyl)pyridin-4-yl)propanoate
Under a nitrogen atmosphere, to a solution of 5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-ol (100 mg) and ethyl 3-cyclopropyl-3-(2-(hydroxymethyl)pyridin-4-yl)propanoate (94 mg) in THF (3.0 mL) were added 1,1′-(azodicarbonyl)dipiperidine (140 mg) and tributylphosphine (136 μL), and the mixture was stirred at room temperature for 14 hr. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane) to give the title compound (140 mg) as a colorless oil.

reactant | 5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-ol | 100 mg | FC1=C(C=C(C=C1)OC)C=1C=CC(=NC1CC(C)(C)C)O | C17H20FNO2
reactant | ethyl 3-cyclopropyl-3-(2-(hydroxymethyl)pyridin-4-yl)propanoate | 94 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=NC=C1)CO | C14H19NO3
reactant | 1,1′-(azodicarbonyl)dipiperidine | 140 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 136 μL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | ethyl 3-cyclopropyl-3-(2-(((5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)oxy)methyl)pyridin-4-yl)propanoate | 140 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=NC=C1)COC1=NC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C31H37FN2O4
